US04348320
8-oxo-2,2-dimethyl-7α-isopropyl-3-oxa-1-azabicyclo[4.2.0]octane 1.0 g is dissolved in 8 ml of acetic acid and 2 ml H2O is added. The mixture is heated at 65° C. for 1.25 hrs. The acetic acid and H2O are removed under reduced pressure and the residue is taken up in C6H6 and evaporated to give 3-isopropyl-4-(2-hydroxyethyl)-azetidinone.

reactant | 8-oxo-2,2-dimethyl-7α-isopropyl-3-oxa-1-azabicyclo[4.2.0]octane | 1.0 g | O=C1C(C2CCOC(N12)(C)C)C(C)C | C11H19NO2
reactant | H2O | 2 ml | O | H2O
solvent | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
product | 3-isopropyl-4-(2-hydroxyethyl)-azetidinone | C(C)(C)C1C(NC1CCO)=O | C8H15NO2
